US06465467B1
Step 1: 2-(2-Trifluoromethylphenoxy)ethanol.
A mixture of 2-trifluoromethylphenol (2.00 g, 12.3 mmol), K2CO3 (1.71 g, 12.3 mmol) and ethylene carbonate (1.20 g, 13.6 mmol) in dry DMF (30 mL) was heated at 150° C. for 1 h. After cooling, the reaction was quenched by addition of water (10 mL). The mixture was concentrated in vacuo and the residue partitioned between water (30 mL) and EtOAc (30 mL). The aqueous phase was extracted with additional portions of EtOAc (3×30 mL). The combined organic layers were treated with charcoal, dried over MgSO4, and filtered through Celite. The filtrate was concentrated in vacuo and the remaining oil was purified by chromatography on silica gel using n-hexane/EtOAc (80:20) as eluent to give 0.50 g (20%) of the title product as white crystals: mp 74-77° C. Anal. (C9H9F3O2) C, H.

reactant | 2-trifluoromethylphenol | 12.3 mmol, 2.00 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | K2CO3 | 12.3 mmol, 1.71 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene carbonate | 13.6 mmol, 1.20 g | C1(OCCO1)=O | C3H4O3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(2-Trifluoromethylphenoxy)ethanol | 0.50 g, 20% | FC(C1=C(OCCO)C=CC=C1)(F)F | C9H9F3O2
